US09380782B2
Under cooling, to a mixture of methyl chloroformate 30 mL and tetrahydrofuran 50 mL was added dropwise 1-chloro-2-methyl-3-aminobenzene 5.00 g and the mixtures were stirred at 25° C. for a half hour. To the reaction mixtures was added water and the resulting mixtures were extracted with ethyl acetate. The organic layers were washed with aqueous saturated sodium bicarbonate solution and were dried over anhydrous sodium sulfate. The mixtures were concentrated under reduced pressure to give 1-chloro-2-methyl-3-methoxycarbonylaminobenzene 5.80 g.

reactant | methyl chloroformate | 30 mL | ClC(=O)OC | C2H3ClO2
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | 1-chloro-2-methyl-3-aminobenzene | 5.00 g | ClC1=C(C(=CC=C1)N)C | C7H8ClN
solvent | water | O | H2O
product | 1-chloro-2-methyl-3-methoxycarbonylaminobenzene | 5.80 g | ClC1=C(C(=CC=C1)NC(=O)OC)C | C9H10ClNO2
